US06143760
A mixture of 2-benzylamino-5-nitropyridine (2.02 g) and 10% Pd/C (202 mg) in ethanol (20 mL) was placed in a Paar bottle and shaken under hydrogen (50 PSI) for 3 h. The mixture was filtered through Celite using dichloromethane and concentrated in vacuo to afford 1.76 g of 2-benzylamino-5-aminopyridine as a burgundy oil.

reactant | 2-benzylamino-5-nitropyridine | 2.02 g | C(C1=CC=CC=C1)NC1=NC=C(C=C1)[N+](=O)[O-] | C12H11N3O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 202 mg | [Pd] | Pd
product | 2-benzylamino-5-aminopyridine | 1.76 g | C(C1=CC=CC=C1)NC1=NC=C(C=C1)N | C12H13N3
